US08563575B2
To a solution of 1H-imidazo[4,5-b]pyridine-2-thiol (2 g) in acetone (30 ml) were added MeI (0.910 mL) and K2CO3 (5.48 g) at room temperature. After stirring for 10 h, the mixture was concentrated under reduced pressure. The residue was purified by column chromatography (NH-silica gel, eluted with 10%-100% EtOAc in hexane) to give 2-(methylsulfanyl)-3H-imidazo[4,5-b]pyridine (1.0 g) as a white solid.

reactant | 1H-imidazo[4,5-b]pyridine-2-thiol | 2 g | N1C(=NC2=NC=CC=C21)S | C6H5N3S
reactant | MeI | 0.910 mL | CI | CH3I
reactant | K2CO3 | 5.48 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-(methylsulfanyl)-3H-imidazo[4,5-b]pyridine | 1.0 g | CSC1=NC=2C(=NC=CC2)N1 | C7H7N3S
